US05530015
To a mixture of 0.65 g of 3-ethyl-4-(4-isopropoxyphenoxy)phenol, 0.35 g of potassium carbonate and 10 ml of N,N-dimethylformamide, a solution prepared by dissolving 0.73 g of 1,1,3-tribromo-1-propene in 5 ml of N,N-dimethylformamide was added dropwise at room temperature with stirring. After stirring at room temperature for 12 hours, the reaction solution was poured into ice-water, and extracted twice with 50 ml, of diethyl ether. Then, the ether layers were combined, washed with water, dried over anhydrous magnesium sulfate and then concentrated to give a crude product. This crude product was subjected to silica gel chromatography to give 0.80 g of 3-ethyl-4-(4-isopropoxyphenoxy)-1-(3,3-dibromo-2-propenyloxy)benzene, yield 71%; nD23.0 1.5761.

reactant | 3-ethyl-4-(4-isopropoxyphenoxy)phenol | 0.65 g | C(C)C=1C=C(C=CC1OC1=CC=C(C=C1)OC(C)C)O | C17H20O3
reactant | potassium carbonate | 0.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,1,3-tribromo-1-propene | 0.73 g | BrC(=CCBr)Br | C3H3Br3
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-ethyl-4-(4-isopropoxyphenoxy)-1-(3,3-dibromo-2-propenyloxy)benzene | 0.80 g, yield 71% | C(C)C=1C=C(C=CC1OC1=CC=C(C=C1)OC(C)C)OCC=C(Br)Br | C20H22Br2O3
